US08227625B2
(E)-N-benzyl-2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)-N-methylacetamide (0.32 g, 1.01 mmol) in THF anh. (5 mL) is added slowly to a suspension of AlLiH4 (0.1 g, 2.63 mmol) in THF anh. (20 mL) cooled in an ice bath and is stirred at room temperature for 1 hour and refluxed for 2 hours. The solution is cooled in an ice bath and some drops of NaOH 10% is added. The mixture is filtered and washed with ethyl acetate. The filtrate is evaporated to dryness and the residue is dissolved in ethyl acetate and washed with water. The organic phase is removed and the resulting crude is purified by column chromatography, giving (E)-N-benzyl-2-(6,7-dihydrobenzo[b]thien-4(5H)-ylidene)-N-methylethanamine (0.25 g, 0.88 mmol, 87%, oil). 1H NMR (300 MHz, CDCl3): δ 1.90 (m, 2H), 2.29 (s, 3H), 2.44 (m, 2H), 2.84 (t, J=6.1 Hz, 2H), 3.26 (d, J=7.0 Hz, 2H), 3.62 (s, 2H), 5.94 (t, J=7.0 Hz, 1H), 7.04 (d, J=5.3 Hz, 1H), 7.20 (d, J=5.3 Hz, 1H), 7.25-7.40 (m, 5H).

reactant | (E)-N-benzyl-2-(6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)-N-methylacetamide | 1.01 mmol, 0.32 g | C(C1=CC=CC=C1)N(C(/C=C/1\CCCC=2SC=CC21)=O)C | C18H19NOS
reactant | NaOH | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (E)-N-benzyl-2-(6,7-dihydrobenzo[b]thien-4(5H)-ylidene)-N-methylethanamine | 0.88 mmol, 0.25 g, 87% | C(C1=CC=CC=C1)N(C/C=C/1\CCCC=2SC=CC21)C | C18H21NS
